US05760032
9-Bromo-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine is added to 2M sulfuric acid, and the mixture is stirred at 80° C. overnight. Sodium hydrogencarbonate is added to the reaction mixture to make the mixture alkaline. Chloroform and 3,4-dichlorobenzoyl chloride are added, and the mixture is stirred at room temperature for 2 hours to give N-(3-bromo-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl) [1,2,4]triazol-5-ylmethyl)-3,4-dichlorobenzamide.

reactant | 9-Bromo-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine | BrC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(S1)CC | C16H12BrClN4S
reactant | sulfuric acid | 2M | S(O)(O)(=O)=O | H2O4S
reactant | Sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 3,4-dichlorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl3O
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(3-bromo-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl) [1,2,4]triazol-5-ylmethyl)-3,4-dichlorobenzamide | BrC1=NN=C(N1C=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC)CNC(C1=CC(=C(C=C1)Cl)Cl)=O | C23H16BrCl3N4O2S
